US05169860
Preparation of N-[[(4-methylphenyl)amino]carbonyl]-5-benzofuransulfonamide
The 5-benzofuransulfonamide (5.74 mmol) and 4-methylphenylisocyanate (5.74 mmol) were reacted as described in Method B above to obtain a solid. This residue was purified by reverse phase chromatography with 50% acetonitrile in water with 1% acetic acid on a C18 column to obtain 0.64 g of the title product as a solid. 1H NMR (CD3SOCD3): κ10.35 (bs, 1 H), 8.74 (s, 1 H), 8.38 (d, J =3 Hz, 1 H), 8.20 (d, J =3 Hz, 1 H), 7.96 (dd, J =3, 9 Hz, 1 H), 7.86 (d, J =9 Hz, 1 H), 7.22 (d, J =9 Hz, 2 H), 7.20 (d, J =3 Hz, 1 H), 7.06 (d, J =9 Hz, 2 H), 2.22 (s, 3 H).

reactant | 5-benzofuransulfonamide | 5.74 mmol | O1C=CC2=C1C=CC(=C2)S(=O)(=O)N | C8H7NO3S
reactant | 4-methylphenylisocyanate | 5.74 mmol | CC1=CC=C(C=C1)N=C=O | C8H7NO
product | N-[[(4-methylphenyl)amino]carbonyl]-5-benzofuransulfonamide | 0.64 g | CC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C=CC2=C(C=CO2)C1 | C16H14N2O4S
